US06972287B1
2-{4-[3-(4-Diethylaminophenyl)propyl]phenylamino}benzoic acid
To an emulsion of 2-{4-[3-(4-diethylaminophenyl)propyl]phenylamino}-benzoic acid methyl ester (1.68 g, 4.03 mmol) in EtOH (50 mL) was added aqueous 3 M-KOH solution (4.0 mL, 12.0 mmol) at room temperature, then the mixture was allowed to heat under reflux for 40 minutes. The reaction mixture was cooled to room temperature and neutralized with aqueous 1.0 M-HCl solution to pH 9.0. The mixture was concentrated under reduced pressure to remove EtOH, and the resulting aqueous solution was extracted with CHCl3 (50 mL, 3 times). The combined extract was washed with brine (10 mL) and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure and purification by column chromatography (silica gel 60N, conc NH4OH/MeOH/CHCl3 0.2:2:100 to 0.5:5:100) afforded a yellow oil. This oil was diluted with acetone, and the solution was concentrated under reduced pressure at room temperature to give the title compound as an amorphous solid (1.62 g, 99% for 0.2 hydrate).

reactant | 2-{4-[3-(4-diethylaminophenyl)propyl]phenylamino}-benzoic acid methyl ester | 4.03 mmol, 1.68 g | COC(C1=C(C=CC=C1)NC1=CC=C(C=C1)CCCC1=CC=C(C=C1)N(CC)CC)=O | C27H32N2O2
reactant | KOH | 12.0 mmol, 4.0 mL | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 2-{4-[3-(4-Diethylaminophenyl)propyl]phenylamino}benzoic acid | 1.62 g, 99% | C(C)N(C1=CC=C(C=C1)CCCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1)CC | C26H30N2O2
